US07468371B2
5-[(2-furylmethyl)(methyl)amino]-1-indanone
A solution of 5-fluoro-1-indanone (1.0 g, 6.66 mmol) and N-methylfurfurylamine (2.0 g, 18.0 mmol) in ethanol (10 mL) was heated to about 80° C. for about 2 days. The reaction mixture was concentrated under vacuum and the residue was purified by flash column chromatography on silica gel using hexane/ethyl acetate (2:1) as the mobile phase to provide the desired product. MS (ESI): m/z 242 (M+H)+.

reactant | 5-fluoro-1-indanone | 6.66 mmol, 1.0 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | N-methylfurfurylamine | 18.0 mmol, 2.0 g | CNCC1=CC=CO1 | C6H9NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-[(2-furylmethyl)(methyl)amino]-1-indanone | O1C(=CC=C1)CN(C=1C=C2CCC(C2=CC1)=O)C | C15H15NO2
